US04439448
In 100 ml of N,N-dimethylformamide was suspended 11 g of 50% sodium hydride which had been washed with n-hexane and the suspension was stirred under ice cooling. Thereafter, 37.6 g (0.2 mole) of diethyl ethylmalonate was added dropwise thereto and stirring was continued until evolution of hydrogen ceased. Subsequently, a solution of 31.51 g (0.2 mole) of p-chloronitrobenzene in 50 ml of N,N-dimethylformamide was added dropwise. At the end of the dropwise addition, the mixture was heated on an oil bath at 100° C. for 9 hours and N,N-dimethylformamide was distilled off in vacuo. The residue was extracted with ethyl acetate and the ethyl acetate layer was washed with 5% hydrochloric acid and saturated sodium chloride solution and then dried over magnesium sulfate. The ethyl acetate was distilled off in vacuo and the residue was subjected to chromatography on silica gel eluting with a mixture of benzene and n-hexane (1:1) to give 48.64 g (0.157 mole, 79% yield) of diethyl 2-ethyl-2-(4-nitrophenyl)malonate.

reactant | sodium hydride | 11 g | [H-].[Na+]
reactant | diethyl ethylmalonate | 0.2 mole, 37.6 g | C(C)C(C(=O)OCC)C(=O)OCC | C9H16O4
reactant | hydrogen | [H][H] | H2
reactant | p-chloronitrobenzene | 0.2 mole, 31.51 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | diethyl 2-ethyl-2-(4-nitrophenyl)malonate | 0.157 mole, 48.64 g, 79% yield | C(C)C(C(=O)OCC)(C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C15H19NO6
